US09328067B2
Methyl 2-[({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-methylphenyl}sulfanyl)methyl]benzoate
Following General Procedure B, the title compound (688 mg, 75%) was prepared from methyl 2-(((2-amino-4-methylphenyl)thio)methyl)benzoate (567 mg, 1.98 mmol) and benzofuran-2-sulfonyl chloride (854 mg, 3.96 mmol) in pyridine (10 ml).

reactant | methyl 2-(((2-amino-4-methylphenyl)thio)methyl)benzoate | 1.98 mmol, 567 mg | NC1=C(C=CC(=C1)C)SCC1=C(C(=O)OC)C=CC=C1 | C16H17NO2S
reactant | benzofuran-2-sulfonyl chloride | 3.96 mmol, 854 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 2-[({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-methylphenyl}sulfanyl)methyl]benzoate | 688 mg, 75% | O1C(=CC2=C1C=CC=C2)S(=O)(=O)NC2=C(C=CC(=C2)C)SCC2=C(C(=O)OC)C=CC=C2 | C24H21NO5S2
